US07390830B1
Synthesis of 4-[[N-(2-amino-4,5-difluorobenzoyl)glycyl]aminomethyl]-1-(2-hydroxy-3-methylbenzyl)piperidine (Compd. No. 2106)
NaBH3CN (0.40 mmol) was added to a mixture of 4-[[N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl]aminomethyl]piperidine (0.050 mmol) with 2-hydroxy-3-methylbenzaldehyde (0.25 mmol), methanol (1.0 mL) and acetic acid (0.040 mL). The resulting mixture was stirred at 50 overnight, cooled to room temperature, loaded onto a Varian™ SCX column and washed with methanol (5 mL×2). The obtained crude product was eluted with a 2 M methanol solution of NH3 (5 mL) and concentrated. The residue was dissolved in ethyl acetate/methanol=5:1 (1 mL), loaded onto a Varian™ SCX column, eluted with ethyl acetate/methanol=5:1 (5 mL) and concentrated. The residue was dissolved in methanol (2 mL), and a 4 M dioxane solution of HCl (0.50 mL) was added to the resulting solution. The obtained mixture was stirred at room temperature overnight and concentrated. The residue was dissolved in methanol, loaded onto a Varian™ SCX column and washed with methanol (5 mL×2). The obtained crude product was eluted with a 2 M methanol solution of NH3 (5 mL), concentrated and purified by preparative TLC to thereby provide 4-[[N-(2-amino-4,5-difluorobenzoyl) glycyl]aminomethyl]-1-(2-hydroxy-3-methylbenzyl)piperidine (Compd. No. 2106). The purity was determined by RPLC/MS (97%). ESI/MS m/e 447.0 (M++H, C23H28F2N4O3).

reactant | NaBH3CN | 0.40 mmol | [BH3-]C#N.[Na+]
reactant | 4-[[N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl]aminomethyl]piperidine | 0.050 mmol | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)NCC2CCNCC2)C=C(C(=C1)F)F | C20H28F2N4O4
reactant | 2-hydroxy-3-methylbenzaldehyde | 0.25 mmol | OC1=C(C=O)C=CC=C1C | C8H8O2
reactant | methanol | 1.0 mL | CO | CH4O
solvent | acetic acid | 0.040 mL | C(C)(=O)O | C2H4O2
product | 4-[[N-(2-amino-4,5-difluorobenzoyl)glycyl]aminomethyl]-1-(2-hydroxy-3-methylbenzyl)piperidine | NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=C(C(=CC=C2)C)O)C=C(C(=C1)F)F | C23H28F2N4O3
